US08202873B2
{4-[4-(1-Ethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-methanol hydrochloride
Combine [4-(3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl)-phenyl]-methanol dihydrochloride (0.177 g, 0.516 mmol), 1-ethyl-1H-pyrazole-4-carbaldehyde (0.064 g, 0.516 mmol) and triethylamine (0.144 mL, 1.03 mmol) in dichloroethane (4 mL). Add glacial acetic acid (42 mL) followed by sodium triacetoxyborohydride (0.153 g, 0.722 mmol). Stir at room temperature for 20 hr. Dilute with saturated aq. sodium bicarbonate then extract three times using DCM. Dry (sodium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 4.5:95.5 methanol (with 2 M ammonia):DCM), to give a white solid. Dissolve the solid in methanol and add ammonium chloride (1 equivalent) then sonicate the mixture for 10 min. Evaporate the solution to give the title compound as a white solid (0.178 g, 83%). MS (ES): m/z=379

reactant | [4-(3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl)-phenyl]-methanol dihydrochloride | 0.516 mmol, 0.177 g | Cl.Cl.N1(CCNCC1)C1=NC=CN=C1C1=CC=C(C=C1)CO
reactant | 1-ethyl-1H-pyrazole-4-carbaldehyde | 0.516 mmol, 0.064 g | C(C)N1N=CC(=C1)C=O | C6H8N2O
reactant | triethylamine | 1.03 mmol, 0.144 mL | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 0.722 mmol, 0.153 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | ammonium chloride | 1 equivalent | [Cl-].[NH4+]
solvent | dichloroethane | 4 mL | ClC(C)Cl | C2H4Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | CO | CH4O
solvent | acetic acid | 42 mL | C(C)(=O)O | C2H4O2
product | {4-[4-(1-Ethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-methanol hydrochloride | 0.178 g, 83% | Cl.C(C)N1N=CC(=C1)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)CO | InChI=1S/C21H26N6O.ClH/c1-2-27-15-18(13-24-27)14-25-9-11-26(12-10-25)21-20(22-7-8-23-21)19-5-3-17(16-28)4-6-19;/h3-8,13,15,28H,2,9-12,14,16H2,1H3;1H
